US04284634
1-(i) To a mixture of 2-cyanobenzaldehyde (5.0 g), methyl 4,4-dimethoxyacetoacetate (7.39 g) and acetic acid (0.458 g) in benzene (15 ml) was added portionwise each one third of a solution of piperidine (390 mg) in benzene (5 ml) for each 20 minutes' interval. The mixture was heated to reflux for 2 hours and the resulting water was removed off azeotropically during the reaction course. After cooling, the reaction mixture was shaken with a mixture of benzene (50 ml) and water (30 ml), and the organic layer was separated and washed with diluted aqueous sodium bicarbonate solution and water. The aqueous washings were extracted with benzene (30 ml). The benzene extract was combined with the above organic layer, washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure. The oily residue (14.8 g) was chromatographed on a column of silica-gel (200 g) and eluted with a mixture of benzene and ethyl acetate (25:1 v/v) to give an oily methyl 2 -(2-cyanobenzylidene)-4,4-dimethoxyacetoacetate (6.90 g). The thin layer chromatogram and N.M.R. spectrum of this product show that it consisted of a mixture of two stereoisomers.

reactant | 2-cyanobenzaldehyde | 5.0 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
reactant | methyl 4,4-dimethoxyacetoacetate | 7.39 g | COC(C(CC(=O)OC)=O)OC | C7H12O5
reactant | acetic acid | 0.458 g | C(C)(=O)O | C2H4O2
reactant | piperidine | 390 mg | N1CCCCC1 | C5H11N
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | methyl 2 -(2-cyanobenzylidene)-4,4-dimethoxyacetoacetate | 6.90 g | C(#N)C1=C(C=C(C(=O)OC)C(=O)C(OC)OC)C=CC=C1 | C15H15NO5
